US05496927
3-[(N-acetylprolyl)alanylprolylamino]-2-hydroxybutanoic acid, methyl ester
Ac-L-prolyl-L-alanyl-L-proline (0.65 g, 2.00 mmol) wassuspended in dry acetonitrile (20 ml) under an argon atmosphere in a flask fitted with an overhead stirrer and internal thermometer. The suspension was cooled to -15° C. and N-methylmorpholine (0.22 ml, 2.00 mmol) was added followed by isobutylchloroformate (0.26 ml, 2.00 mmol) at such a rate as to maintain the internal reaction temperature at -10° to -15° C. After 10 minutes, a solution of methyl (3S)-3-amino-2-hydroxybutanoate (0.53 g, 4.00 mmol) in chloroform (2.5 ml) was added at such a rate as to maintain the internal reaction temperature at -10° to -15° C. The reaction mixture was slowly warmed to room temperature and then stirred for 3 hours. The reaction mixture was evaporated on a rotary evaporator, the residue dissolved in water (20 ml) and treated with a mixed bed resin (J. T. Baker--ANGMI-615, 11.0 g). After 15 minutes the mixture was filtered and the filtrate evaporated on a rotary evaporator. Chromatography using methylene chloride-methanol as the eluent gave the above-named product (0.32 g) in 36% yield.

reactant | L-prolyl-L-alanyl-L-proline | 2.00 mmol, 0.65 g | N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
reactant | N-methylmorpholine | 2.00 mmol, 0.22 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 2.00 mmol, 0.26 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl (3S)-3-amino-2-hydroxybutanoate | 4.00 mmol, 0.53 g | N[C@H](C(C(=O)OC)O)C | C5H11NO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[(N-acetylprolyl)alanylprolylamino]-2-hydroxybutanoic acid, methyl ester | 0.32 g, 36% yield | C(C)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)NC(C(C(=O)OC)O)C)CCC2)CCC1 | C20H32N4O7
